US05124069
A crude product was obtained in the same manner as described in Example 22 except that (2S,5R)-2-hydroxy-5-hexyl-δ-valerolactone was used in an amount of 125 mg and 125 mg of p-hydroxybenzoic acid was used instead of 120 mg of 4-octyloxy-3-cyanobenzoic acid. The crude product was purified by the silica gel column chromatography to obtain 20 mg of (2R,5R)-2-(4'-pentyloxycarbonylphenoxy)-5-hexyl-δ-valerolactone.

reactant | (2S,5R)-2-hydroxy-5-hexyl-δ-valerolactone | O[C@@H]1C(=O)O[C@@H](CC1)CCCCCC | C11H20O3
reactant | p-hydroxybenzoic acid | 125 mg | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
product | (2R,5R)-2-(4'-pentyloxycarbonylphenoxy)-5-hexyl-δ-valerolactone | 20 mg | C(CCCC)OC(=O)C1=CC=C(O[C@H]2C(=O)O[C@@H](CC2)CCCCCC)C=C1 | C23H34O5
